US05438062
11-(4-PIPERIDYL)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
To a mixture of 5.0 g (16.2 mmole) of (1-methyl-4-piperidinyl)[3-(2-phenylethyl)-2-pyridinyl]methanone (which can be prepared in the same manner as described in Preparative Example 1, Steps A-D) in 70 mL of methanol was added portionwise 0.8 g (21.1 mmole) of sodium borohydride. The next day the solution was concentrated in vacuo to give a slurry which was dissolved in water and extracted with CHCl3. The combined organic portions were dried over MgSO4, filtered, and concentrated in vacuo to provide a liquid which was distilled (bp 190°-195° C. 1 mm Hg) to give 4.4 gms of the title compound as a viscous oil.

reactant | (1-methyl-4-piperidinyl)[3-(2-phenylethyl)-2-pyridinyl]methanone | 16.2 mmole, 5.0 g | CN1CCC(CC1)C(=O)C1=NC=CC=C1CCC1=CC=CC=C1 | C20H24N2O
reactant | sodium borohydride | 21.1 mmole, 0.8 g | [BH4-].[Na+]
solvent | methanol | 70 mL | CO | CH4O
solvent | water | O | H2O
product | 11-(4-PIPERIDYL)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 4.4 gms | N1CCC(CC1)C1C2=C(CCC=3C1=NC=CC3)C=CC=C2 | C19H22N2
